US09388189B2
b) (S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid
(S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate (560 mg, 1.08 mmol) was dissolved in methanol (200 ml) and hydrogenated in a Parr apparatus at 25 psi in the presence of Pd/C 10%. Once the reaction was completed, the mixture was filtered and the solvent evaporated under reduced pressure to yield 376 mg (79% yield) of the final compound, which was used in the next synthetic step without further purification.

reactant | (S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 1.08 mmol, 560 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)OCC1=CC=CC=C1 | C29H25N7O3
solvent | methanol | 200 ml | CO | CH4O
solvent | Pd/C | [Pd] | Pd
product | (S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 376 mg, 79% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)O | C22H19N7O3
